US05374772
Sodium hydroxide hydrolysis of 3-(decyloxy)-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester gave 3-(decyloxy)-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid (95% yield, mp 107°-109°)

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 3-(decyloxy)-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1)OCCCCCCCCCC)=O | C34H44O6
product | 3-(decyloxy)-5-[3-[4-(phenylmethoxy)phenoxy]propoxy]benzoic acid | 95% yield | C(CCCCCCCCC)OC=1C=C(C(=O)O)C=C(C1)OCCCOC1=CC=C(C=C1)OCC1=CC=CC=C1 | C33H42O6
